US05312815
A solution of 1.12 g (11.4 mmol) of potassium acetate in 2 ml of water was added to a solution of 2.0 g (5.7 mmol) of (±)-2-(2,4-difluorophenyl)-2-(1-((4-methoxyphenyl)methylthio)-1-methylethyl)oxirane and 0.15 g (0.57 mmol) of 18-crown-6 in 12 ml of DMA, and the mixture was stirred at 110° C. for 30 hours. After being allowed to cool, 50 ml of water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried, and distilled under reduced pressure to remove the solvent. The residue was purified by column chromatography using a mixed solvent of hexane and ethyl acetate (5:1) as an eluent. The solvent was removed by distillation under reduced pressure, and the residue was recrystallized from a mixed solvent of isopropyl ether and diethyl ether to obtain 1.58 g (75%) of (±)-2-(2,4-difluorophenyl)-3-((4-methoxyphenyl)methylthio)- 3-methylbutane-1,2-diol as a colorless crystal.

reactant | potassium acetate | 11.4 mmol, 1.12 g | C(C)(=O)[O-].[K+]
reactant | (±)-2-(2,4-difluorophenyl)-2-(1-((4-methoxyphenyl)methylthio)-1-methylethyl)oxirane | 5.7 mmol, 2.0 g | FC1=C(C=CC(=C1)F)C1(OC1)C(C)(C)SCC1=CC=C(C=C1)OC | C19H20F2O2S
reactant | 18-crown-6 | 0.57 mmol, 0.15 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | water | 2 ml | O | H2O
solvent | DMA | 12 ml | CC(=O)N(C)C | C4H9NO
solvent | water | 50 ml | O | H2O
product | (±)-2-(2,4-difluorophenyl)-3-((4-methoxyphenyl)methylthio)- 3-methylbutane-1,2-diol | 1.58 g, 75% | FC1=C(C=CC(=C1)F)C(CO)(C(C)(C)SCC1=CC=C(C=C1)OC)O | C19H22F2O3S
